US07973145B2
2.15 g of 3-O-(6-sulfo-α-D-quinovopyranosyl)-1-O-stearoyl-propane-1,3-diol sodium salt was dissolved in 60 ml of water, adsorbed to a WAKOGEL® 100C18 (manufactured by Wako Pure Chemical Industries, Ltd.) column, and 500 ml of 1% calcium chloride solution was poured into the column for substitution, and washed with 500 ml of distilled water. Thereafter, elution was performed with 200 ml each of 50%, 80%, and 100% methanol, and reprecipitated from 98% heated ethanol to obtain 1.47 g of 3-O-(6-sulfo-α-D-quinovopyranosyl)-1-O-stearoyl-propane-1,3-diol calcium salt.

reactant | 3-O-(6-sulfo-α-D-quinovopyranosyl)-1-O-stearoyl-propane-1,3-diol sodium salt | 2.15 g | [Na].S(=O)(=O)(O)C[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OCCCOC(CCCCCCCCCCCCCCCCC)=O)O)O)O
reactant | calcium chloride | 500 ml | [Cl-].[Ca+2].[Cl-]
solvent | water | 60 ml | O | H2O
product | 3-O-(6-sulfo-α-D-quinovopyranosyl)-1-O-stearoyl-propane-1,3-diol calcium salt | 1.47 g | [Ca].S(=O)(=O)(O)C[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OCCCOC(CCCCCCCCCCCCCCCCC)=O)O)O)O | InChI=1S/C27H52O10S.Ca/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-18-23(28)35-19-17-20-36-27-26(31)25(30)24(29)22(37-27)21-38(32,33)34;/h22,24-27,29-31H,2-21H2,1H3,(H,32,33,34);/t22-,24-,25+,26-,27+;/m1./s1
